US03947446
Preparation of 1-[3-(5,6,7,8-Tetrahydronaphth-1-yloxy)-2-hydroxy-prop-1-yl]-4-(2-aminophenyl)-piperazine
20.6 g. (50 mMole) 1-[3-(5,6,7,8-tetrahydronaphth-1-yloxy)-2-hydroxy-prop-1-yl]-4-(2-nitrophenyl)-piperazine (prepared in the manner described in Example 9) were hydrogenated in tetrahydrofuran, in the presence of Raney nickel in a manner analogous to that described in Example 7. There were thus obtained 19.4 g. (85% of theory) 1-[3-(5,6,7,8-tetrahydronaphth-1-yloxy)-2-hydroxy-prop-1-yl]-4-(2-aminophenyl)-piperazine dihydrochloride, which has a melting point of 268°-271°C. The free base obtained herefrom in the usual manner melts at 103°-104°C.

reactant | 1-[3-(5,6,7,8-tetrahydronaphth-1-yloxy)-2-hydroxy-prop-1-yl]-4-(2-nitrophenyl)-piperazine | 50 mMole | C1(=CC=CC=2CCCCC12)OCC(CN1CCN(CC1)C1=C(C=CC=C1)[N+](=O)[O-])O | C23H29N3O4
reactant | 1-[3-(5,6,7,8-tetrahydronaphth-1-yloxy)-2-hydroxy-prop-1-yl]-4-(2-aminophenyl)-piperazine dihydrochloride | Cl.Cl.C1(=CC=CC=2CCCCC12)OCC(CN1CCN(CC1)C1=C(C=CC=C1)N)O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | Raney nickel | [Ni] | Ni
product | 1-[3-(5,6,7,8-Tetrahydronaphth-1-yloxy)-2-hydroxy-prop-1-yl]-4-(2-aminophenyl)-piperazine | C1(=CC=CC=2CCCCC12)OCC(CN1CCN(CC1)C1=C(C=CC=C1)N)O | C23H31N3O2
